US07101886B2
2-FLUORO-4-IODO-PHENYLAMINE
2-Fluoroaniline (54 g, 486 mmol) was added to a vigorously stirred solution of sodium bicarbonate (41 g, 486 mmol) in water (250 mL). The suspension was warmed to 60° C. on an oil bath and iodine (123 g, 486 mmol) was added portion-wise. After complete addition, the dark mixture was stirred for an additional 3 h at 60° C. After cooling to rt, methylene chloride (300 mL) was added followed by saturated hydrogensulfite solution (300 mL). The biphasic system was vigorously stirred for an additional 10 min. The mixture was poured into a 2 L separatory funnel and the organic layer was released. The aqueous was further extracted with methylene chloride (3×200 mL) and the combined organics were washed with brine (200 mL) and dried over anhydrous sodium sulfate. After filtration, the solvent was removed to give a black crystalline solid. Hexane (300 mL) was added and the mixture was heated to reflux. The hexane was decanted from a black, insoluble syrup. The product crystallized from the hexane on cooling as fine yellow needles. 65 g (274 mmol) was isolated as a fine yellow solid. Yield: 56%; mp 53° C.; 1H NMR (400 MHz, CDCl3) δ 8.1 (t, J=8 Hz, 1H), 7.4 (d, J=6 Hz, 1H), 7.2 (d, J=6 Hz, 1H).

reactant | 2-Fluoroaniline | 486 mmol, 54 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | sodium bicarbonate | 486 mmol, 41 g | C([O-])(O)=O.[Na+]
reactant | iodine | 486 mmol, 123 g | II | I2
reactant | hydrogensulfite | 300 mL | S(=O)(O)[O-]
solvent | water | 250 mL | O | H2O
solvent | Hexane | 300 mL | CCCCCC | C6H14
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-FLUORO-4-IODO-PHENYLAMINE | Yield: 56% | FC1=C(C=CC(=C1)I)N | C6H5FIN
